US06784180B2
Preparation of 5-Methoxy-2-Naphthylamine.
5-Methoxy-2-naphthoic acid (3.17 g, 15.7 mmol), CH2CO2 (38 mL) and DMF (3.04 mL, 39.2 mmol) were combined in a 50-mL flask under a N2 atmosphere. Oxalyl chloride (2.73 mL, 31.3 mmol) was added dropwise over 30 minutes at 20 to 23° C. The resulting yellow solution was stirred at room temperature for 15 minutes. The solution was then concentrated in vacuo to 6.48 g of yellow solid which was slightly wet with DMF. The solid was dissolved in CH3CN (157 mL) and added dropwise over 35 minutes to a solution of sodium azide (2.55 g, 39.2 mmol) in 24 mL of water, and rinsed in with an additional 25 mL of CH3CN. Analysis of the resulting yellow mixture by HPLC after 5 minutes showed 15% acyl chloride remaining. Water (15 mL) was added to give an orange mixture and to promote acyl azide formation. The mixture was heated at reflux for 1 hour and 40 minutes. The mixture was cooled to room temperature. Sodium hydroxide (50 mL, 2N solution) was added and the resulting yellow mixture was stirred at room temperature overnight. The mixture was concentrated in vacuo to 102.0 g of brown gum plus liquid. The mixture was extracted with 50 mL of CH2Cl2. The CH2Cl2 layer was dried over Na2SO4, filtered and concentrated in vacuo to provide 1.83 g of the intermediate title compound as a brown oil (HPLC: 91%, 61% yield).

reactant | 5-Methoxy-2-naphthoic acid | 15.7 mmol, 3.17 g | COC1=C2C=CC(=CC2=CC=C1)C(=O)O | C12H10O3
reactant | DMF | 39.2 mmol, 3.04 mL | CN(C)C=O | C3H7NO
reactant | Oxalyl chloride | 31.3 mmol, 2.73 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium azide | 39.2 mmol, 2.55 g | [N-]=[N+]=[N-].[Na+]
reactant | Sodium hydroxide | 2N, 50 mL | [OH-].[Na+]
solvent | water | 24 mL | O | H2O
product | 5-Methoxy-2-Naphthylamine | 61% yield | COC1=C2C=CC(=CC2=CC=C1)N | C11H11NO
